US07842821B2
Methylene chloride (60 mL), cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide (5 g), N-ethyl-4-nitrobenzene-sulfonamide (6.86 g) and triphenyl-phosphine (8.42 g) are mixed under nitrogen atmosphere. The mixture is cooled to under −20° C. and diisopropyl azadicarboxylate (5.9 mL) is added, maintaining the temperature under −20° C. The temperature is allowed to rise to 20-25° C. The obtained mixture is treated with 5% NaOH (125 mL) and the resulting organic phase is vacuum distilled to dryness. The residue is chromatographed in a column (ethyl acetate/heptane, 2/1), obtaining 4.97 g of trans-4-[N-ethyl-N-(4-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide.

reactant | cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide | 5 g | O[C@@H]1C2=C(S([C@@H](C1)C)(=O)=O)SC=C2 | C8H10O3S2
reactant | N-ethyl-4-nitrobenzene-sulfonamide | 6.86 g | C(C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O4S
reactant | triphenyl-phosphine | 8.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | 125 mL | [OH-].[Na+]
solvent | Methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | trans-4-[N-ethyl-N-(4-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide | 4.97 g | C(C)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1C2=C(S([C@H](C1)C)(=O)=O)SC=C2 | C16H18N2O6S3
